* Z:\home\danieltyukov\workspace\tud\tud-analog-cmos-design-1\hw2\discrete_time_fully_differential_folded_cascode_amplifier.asc
Mp1 Vsp Vbp Vddb Vddb pch l=L w=W m=Mp
Mp2 Vbp Vcp Vsp Vddb pch l=L w=W m=Mp
Mp3 Vcp Vcp Vddb Vddb pch l=L w=W m=Mp
Mn1 Vsn Vbn 0 0 nch l=L w=W m={Mn}
Mn2 Vbn Vcn Vsn 0 nch l=L w=W m={Mn}
Mn3 Vcn Vcn 0 0 nch l=L w=W m={Mn}
Ibm Vbp Vbn {Ibm}
Ibn Vddb Vcn {Ibm*Rn}
Ibp Vcp 0 {Ibm*Rp}
V1 Vddb 0 1.8
V2 Vdd 0 1.8
C1 Vdd Vbp {Cbig}
C2 Vdd Vsp {Cbig}
C3 Vdd Vcp {Cbig}
C4 0 Vbn {Cbig}
C5 0 Vsn {Cbig}
C6 0 Vcn {Cbig}
E1 N001 Vbcm N002 Vbn 1
R1 N001 Vop {Rbig}
R2 Von N001 {Rbig}
C7 Von Vbcm {Cfb}
C8 Vop Vbcm {Cfb}
Vcm N002 0 0.9
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\danieltyukov\Documents\LTspiceXVII\lib\cmp\standard.mos
.param W=1u L=0.18u Mp=60 Mn=11 Ibm=200u Rn=5.8 Rp=7.5
;step param Mn list 5,10,15
.op
;dc param Rn 3 9 0.1
.lib 'C:\Program Files\LTC\LTspiceXVII\lib\cmp\log018.l' TT
;dc param Rp 3 12 0.1
;dc Vop 0 1.8 0.01
* Biasing Circuit
* Biasing Voltage Source
* Voltage Source
.param Cbig=1u
* Decoupling Capacitors
* Ideal CMFB
.backanno
.end
